US04461774
A mixture of 2-(2,4-dichlorophenyl)-2-(imidazol-1-yl)methyloxirane (170.4 g; Japanese Patent Publications (unexamined) Nos. 12372/1981 and 106666/1982) and a 25% aqueous sulfuric acid solution (1193 g) was stirred at 80°-85° C. for 5 hours. To the reaction mixture, ethyl acetate (405 ml) and a 28% aqueous ammonia solution (520 ml) were added dropwise at 0°-10° C., and then the mixture was stirred for 1 hour at the same temperature. The resulting precipitate was collected by filtration and dried at 80° C. (10 mmHg) for 5 hours to give 2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-2,3-propanediol. Yield, 146 g; 80.3%. M.P., 123.5°-124.5° C.

reactant | 2-(2,4-dichlorophenyl)-2-(imidazol-1-yl)methyloxirane | 170.4 g | ClC1=C(C=CC(=C1)Cl)C1(OC1)CN1C=NC=C1 | C12H10Cl2N2O
reactant | sulfuric acid | 1193 g | S(O)(O)(=O)=O | H2O4S
reactant | ammonia | 520 ml | N | H3N
solvent | ethyl acetate | 405 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2,4-dichlorophenyl)-1-(imidazol-1-yl)-2,3-propanediol | ClC1=C(C=CC(=C1)Cl)C(CN1C=NC=C1)(CO)O | C12H12Cl2N2O2
